US07666878B2
93c) [1-(4-Ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
To a stirred solution of [1-(4-ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (0.6 g, 1.32 mmol) in methanol/THF (8 ml of a 1:1 mixture) is added 1M NaOH (3 ml). After stirring at room temperature for 1.5 hours, the solvent is removed in vacuo and the residue is dissolved in water (3 ml). The solution is acidified to pH1 using 6M HCl and the resulting suspension is filtered and dried to yield the titled product. (MH+ 441)

reactant | [1-(4-ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 1.32 mmol, 0.6 g | COC(CC1=C(N(C2=NC=CC=C21)CC2=C(C=C(C=C2)S(=O)(=O)CC)C(F)(F)F)C)=O | C21H21F3N2O4S
reactant | NaOH | 1M, 3 ml | [OH-].[Na+]
solvent | methanol THF | CO.C1CCOC1
product | [1-(4-Ethanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | C(C)S(=O)(=O)C1=CC(=C(CN2C(=C(C=3C2=NC=CC3)CC(=O)O)C)C=C1)C(F)(F)F | C20H19F3N2O4S
